US06124323
5-(2-Hydroxy-ethoxy)-1,3-dihydro-indol-2-one (0.70 g, 3.62 mmol) was dissolved in anhydrous pyridine (15 ml) and cooled to 0°C. in an ice bath. p-Toluenesulfonic anhydride (1.42 g, 97%, 4.22 mmol) was added, and the reaction was allowed to stir at 0°C. for 40 min. Ethyl acetate (100 ml) was added to precipitate pyridinium tosylate. The solid material was removed by filtration. The filtrate was washed with ice cold 3N HCl (2×30 ml) and then with brine. The organic layer was dried over MgSO4, filtered and evaporated to give a pale brown solid. The solid was triturated with a mixture of EtOAc (6 ml) and Et2O (40 ml) to give toluene-4-sulfonic acid 2-(2-oxo-2,3-dihydro-1H-indol-5-yloxy)-ethyl ester (0.77 g, 61%) after air-dried, which was used without further purification.

reactant | 5-(2-Hydroxy-ethoxy)-1,3-dihydro-indol-2-one | 3.62 mmol, 0.70 g | OCCOC=1C=C2CC(NC2=CC1)=O | C10H11NO3
reactant | p-Toluenesulfonic anhydride | 4.22 mmol, 1.42 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | toluene-4-sulfonic acid 2-(2-oxo-2,3-dihydro-1H-indol-5-yloxy)-ethyl ester | 0.77 g, 61% | O=C1NC2=CC=C(C=C2C1)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO5S
